US07732646B2
Sorbitol Allyl Ether Mixture
At 3.7 hours after the initiation of the reaction, the addition of 200 g of allyl chloride was completed. Then the addition was continued. The time required for adding 300 g of allyl chloride was 5.5 hours after the initiation of the reaction. At this point of time (at the time at which allyl halide was added in the amount of 20% by mol, based on total molar number of hydroxyl group contained in D-sorbitol), the reflux liquid is separated so that an oil layer alone is returned to the reactor by attaching a water metering reservoir between the reflux condenser and the reactor. The time required for adding total amount of 459 g of allyl chloride was 8 hours after the initiation of the reaction. At this point of time, the dropwise addition of 333 g of 48% aqueous sodium hydroxide solution from the other dropping funnel was initiated. The time required for adding total amount of 842 g of allyl chloride was 11 hours after the initiation of the reaction. The temperature was between 70° C. and 90° C. After the mixture was digested for one hour, the mixture was cooled.

reactant | allyl chloride | 200 g | C(C=C)Cl | C3H5Cl
reactant | allyl chloride | 300 g | C(C=C)Cl | C3H5Cl
reactant | sodium hydroxide | 333 g | [OH-].[Na+]
reactant | allyl chloride | 842 g | C(C=C)Cl | C3H5Cl
reactant | D-sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
product | Sorbitol Allyl Ether | C(C=C)OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C9H18O6
